US08044067B2
A solution of sodium dihydrido-bis(2-methoxy-ethoxy)aluminate (66 ml of a 3.5 M solution in toluene) in tetrahydrofuran (15 ml) was added to t-butyl 3-methoxy-benzylidenecarbazate (28.8 g) dissolved in tetrahydrofuran (200 ml) at 20° C. during 45 minutes. After the addition the solution was stirred at room temperature for 3 hours. The reaction mixture was treated carefully with aqueous sodium hydroxide (40 ml, 5%), after which water (200 ml) and ethyl acetate (500 ml) were added. The organic phase was separated, dried and concentrated to dryness giving t-butyl 3-methoxy-benzylcarbazate (28 g) as an oil.

reactant | t-butyl 3-methoxy-benzylidenecarbazate | 28.8 g | COC=1C=C(C=NNC(=O)OC(C)(C)C)C=CC1 | C13H18N2O3
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | t-butyl 3-methoxy-benzylcarbazate | 28 g | COC=1C=C(CN(C(=O)OC(C)(C)C)N)C=CC1 | C13H20N2O3
